US08937078B2
Step D: Preparation of 1-(4-oxo-6-o-tolyl-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
A solution of HCl in dioxane (4M, 0.872 mL, 3.48 mmol) was added to 1-[4-oxo-6-o-tolyl-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (88.0 mg, 0.174 mmol). The reaction mixture was stirred at 23° C. After 18 h, the reaction mixture was concentrated under reduced pressure. Et2O was added (5 mL) and the resulting precipitate was collected by filtration and washed well with Et2O to afford the titled compound (52.0 mg, 80%). MS (ESI): mass calcd. for C21H18N4O3, 374.1; m/z found 375.2 [M+H]+. 1H NMR (600 MHz, CDCl3): 9.05 (s, 1H), 8.35 (s, 1H), 8.02 (s, 1H), 7.86 (d, J=6.6 Hz, 1H), 7.78 (s, 1H), 7.37-7.28 (m, 4H), 4.31 (q, J=7.1 Hz, 2H), 2.28 (s, 3H), 1.33 (t, J=7.1 Hz, 3H).

reactant | HCl | Cl | ClH
reactant | dioxane | 3.48 mmol, 4M, 0.872 mL | O1CCOCC1 | C4H8O2
reactant | 1-[4-oxo-6-o-tolyl-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.174 mmol, 88.0 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1COCC[Si](C)(C)C)=O)C1=C(C=CC=C1)C | C27H32N4O4Si
product | 1-(4-oxo-6-o-tolyl-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 52.0 mg, 80% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1)=O)C1=C(C=CC=C1)C | C21H18N4O3
